US07511084B2
17 g of LiCl were dissolved in 250 ml of dimethylformamide in a 2 l stirred flask fitted with internal thermometer and condenser. A solution of 86 g of ethyl trimethylbenzoylphenylphosphinate in 50 ml of DMF was subsequently added dropwise over the course of one hour. The reaction mixture was subsequently stirred overnight at 65° C. 850 ml of ice-water were added dropwise to the mixture, giving a slightly cloudy solution. After warming to 35° C., 450 ml of 0.5 M H2SO4 were added until a pH of 1.5-2 had been reached, whereupon colorless crystals were precipitated. Stirring was continued at 5° C. for one hour. The crystals were filtered off and washed twice with 200 ml of water each time. Drying gave 71.7 g of 98% pure trimethylbenzoylphenylphosphinic acid (HPLC).

reactant | LiCl | 17 g | [Li+].[Cl-]
reactant | ethyl trimethylbenzoylphenylphosphinate | 86 g | CC1=C(C(=C(C=C1)P(OCC)(=O)C(C1=CC=CC=C1)=O)C)C | C18H21O3P
reactant | H2SO4 | 0.5 M, 450 ml | OS(=O)(=O)O | H2O4S
solvent | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | trimethylbenzoylphenylphosphinic acid | 71.7 g, 98% | CC1=C(C(=C(C=C1)P(O)(=O)C(C1=CC=CC=C1)=O)C)C | C16H17O3P
